datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[NH:10](C)C([H])C([H])/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(C)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(C)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(C)[OH+:10]C(C)C(C)N1[H]>>[OH:10]C(C)C(C)N([C:20](C)=[OH+:21])[H] 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C([H])[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])CCCCCC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[OH:10]C(CCC)C([H])C(O)C([H])[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C([H])C(O)C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)[H])[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)[H])C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)[H].[O-:21]C 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C([H])[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C)CCCCCC)[H].[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)[H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([K])C(CC)C(O)=C1O>>[O:10]([K])C(CC)/C(O)=C([C:20](C)=[O:21])/O 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C([H])[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C([H])[S]1 10=20;20,21=21"
"[O-:10]C(C)C([H])C(O)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(O)C([H])C(C)[O:10]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[O]C(CC)C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(CC)C([H])[O]2.C[S:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CC)CCCCCC)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(C)[S]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])CCCCCC 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
